* OPA374 SPICE MACRO-MODEL
*
*   REV. A    27 FEBRUARY 2004, BY W.K. SANDS
*
*   REV. B    4 MARCH 2004 BY NEIL ALBAUGH: ADDED HEADER TEXT & EDITED TEXT
*
* THIS MACROMODEL HAS BEEN OPTIMIZED TO MODEL THE AC, DC, AND TRANSIENT RESPONSE PERFORMANCE WITHIN
*     THE DEVICE DATA SHEET SPECIFIED LIMITS.
*     CORRECT OPERATION OF THIS MACROMODEL HAS BEEN VERIFIED ON MICROSIM P-SPICE VER. 8.0 AND ON
*     PENZAR DEVELOPMENT TOPSPICE VER. 6.82D. FOR HELP WITH OTHER ANALOG SIMULATION SOFTWARE,
*     PLEASE CONSULT YOUR SOFTWARE SUPPLIER.
*
*
* ------------------------------------------------------------------------
*|(C) COPYRIGHT TEXAS INSTRUMENTS INCORPORATED 2007. ALL RIGHTS RESERVED. |
*|                                                                        |
*|THIS MODEL IS DESIGNED AS AN AID FOR CUSTOMERS OF TEXAS INSTRUMENTS.    |
*|NO WARRANTIES, EITHER EXPRESSED OR IMPLIED, WITH RESPECT TO THIS MODEL  |
*|OR ITS FITNESS FOR A PARTICULAR PURPOSE IS CLAIMED BY TEXAS INSTRUMENTS |
*|OR THE AUTHOR.  THE MODEL IS LICENSED SOLELY ON AN "AS IS" BASIS.  THE  |
*|ENTIRE RISK AS TO ITS QUALITY AND PERFORMANCE IS WITH THE CUSTOMER.     |
* ------------------------------------------------------------------------
*
* BEGIN MODEL OPA374
*
* BEGIN NOTES
*
*
* MODEL TEMPERATURE RANGE IS -40 C TO +125 C, NOT ALL PARAMETERS ACCURATELY TRACK THOSE OF AN ACTUAL OPA374
* OVER THE FULL TEMPERATURE RANGE BUT ARE AS CLOSE AS PRACTICAL
*
* END NOTES
*
* BEGIN MODELED FEATURES
*
* OPEN LOOP GAIN AND PHASE
* INPUT VOLTAGE NOISE W 1/F
* INPUT CURRENT NOISE
* INPUT BIAS CURRENT
* INPUT BIAS CURRENT VS TEMP
* INPUT CAPACITANCE
* INPUT COMMON MODE VOLT RANGE
* RAIL TO RAIL INPUT STAGE
* WITH OFFSET TRANSITION
* INPUT CLAMPS TO RAILS
* CMRR WITH FREQUENCY EFFECTS
* PSRR WITH FREQUENCY EFFECTS
* SLEW RATE
* QUIESCENT CURRENT
* QUIESCENT CURRENT VS VOLTAGE
* RAIL TO RAIL OUTPUT STAGE
* HIGH CLOAD EFFECTS
* CLASS AB BIAS IN OUTPUT STAGE
* OUTPUT CURRENT THROUGH SUPPLIES
* OUTPUT CURRENT LIMITING
* OUTPUT CURRENT LIMIT VS SUPPLY
* OUTPUT CLAMPS TO RAILS
* OUTPUT IMPEDANCE
* OUTPUT SWING VS OUTPUT CURRENT
*
* END FEATURES
*
*
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  3   4   5  2  1
*
.SUBCKT OPA374_0  3 4 5 2 1
*
Q20 6 7 8 QLN
R3 9 10 2
R4 11 10 2
R10 7 12 1E3
R11 13 14 1E3
R12 15 5 20
R13 2 16 20
R16 17 18 250
R17 19 20 20
R18 8 21 20
D5 22 5 DD
D6 2 22 DD
D7 23 0 DIN
D8 24 0 DIN
I8 0 23 0.1E-3
I9 0 24 0.1E-3
E2 8 0 2 0 1
E3 20 0 5 0 1
D9 25 0 DVN
D10 26 0 DVN
I10 0 25 0.1E-3
I11 0 26 0.1E-3
E4 27 4 25 26 0.081
G2 28 4 23 24 12E-7
R22 2 5 100E6
E5 29 0 20 0 1
E6 30 0 8 0 1
E7 31 0 32 0 1
R30 29 33 1E5
R31 30 34 1E5
R32 31 35 1E5
R33 0 33 10
R34 0 34 10
R35 0 35 10
E10 36 3 35 0 0.12
R36 37 32 1E3
R37 32 38 1E3
C6 29 33 0.2E-12
C7 30 34 100E-12
C8 31 35 2E-12
E11 39 36 34 0 0.28
E12 28 39 33 0 0.28
E14 40 8 20 8 0.5
D11 17 20 DD
D12 8 17 DD
M1 41 42 16 16 NOUT L=3U W=240U
M2 43 44 15 15 POUT L=3U W=240U
M3 45 45 19 19 POUT L=3U W=240U
M4 46 47 9 9 PIN L=3U W=220U
M5 48 49 11 11 PIN L=3U W=220U
M8 50 50 21 21 NOUT L=3U W=240U
R43 51 44 100
R44 52 42 100
G3 17 40 53 40 0.2E-3
R45 40 17 12E6
C12 18 22 9.9E-12
R46 8 46 2E3
R47 8 48 2E3
C13 46 48 0.2E-12
C14 28 0 3E-12
C15 27 0 3E-12
C16 22 0 0.5E-12
D13 42 6 DD
D14 54 44 DD
Q15 54 14 20 QLP
V18 28 55 0
M19 56 57 20 20 PIN L=6U W=500U
E17 38 0 28 0 1
E18 37 0 4 0 1
M23 57 57 20 20 PIN L=6U W=500U
V21 56 10 0
R59 22 43 15
R60 41 22 15
J1 58 28 58 JNC
J2 58 27 58 JNC
J3 27 59 27 JNC
J4 28 59 28 JNC
C21 28 60 1E-12
E20 61 40 48 46 1
R62 61 53 1E4
C23 53 40 0.1E-12
G7 62 40 17 40 -1E-3
G8 40 63 17 40 1E-3
G9 40 64 50 8 1E-3
G10 65 40 20 45 1E-3
D17 65 62 DD
D18 63 64 DD
R66 62 65 100E6
R67 64 63 100E6
R68 65 20 1E3
R69 8 64 1E3
E23 20 51 20 65 1
E24 52 8 64 8 1
R70 63 40 1E6
R71 64 40 1E6
R72 40 65 1E6
R73 40 62 1E6
G11 5 2 66 0 315E-6
R75 39 28 1E9
R76 36 39 1E9
R77 3 36 1E9
R78 4 27 1E9
R79 40 53 1E9
R81 51 20 1E9
R82 8 52 1E9
R83 32 0 1E9
G14 57 8 66 0 128U
G15 45 50 66 0 180U
E48 67 17 66 0 30
E49 68 40 66 0 -30
V49 69 68 15
V50 70 67 -15
R127 67 0 1E12
R128 68 0 1E12
M41 40 70 17 71 PSW L=1.5U W=150U
M42 17 69 40 72 NSW L=1.5U
R129 71 0 1E12
R130 72 0 1E12
M43 73 74 8 8 NEN L=3U W=300U
M44 75 76 8 8 NEN L=3U W=3000U
R131 73 20 1E4
R132 75 77 1E6
V51 77 8 1
M45 78 78 20 20 PEN L=6U W=60U
M46 74 78 20 20 PEN L=6U W=60U
I20 78 8 0.2E-6
C26 74 0 1E-12
E50 66 0 79 8 1
V52 75 79 1.111E-6
R133 8 79 1E12
C32 20 73 3E-15
C33 77 75 3E-15
I21 5 2 0.5E-6
L1 22 1 4E-9
R150 22 1 400
V78 20 58 0
V79 59 8 0
R155 45 20 1E8
R156 8 50 1E8
R157 16 42 1E8
R158 15 44 1E8
RG1 0 66 1E9
R159 60 27 100
R225 49 27 2250
R226 47 55 2250
G34 27 0 80 0 10E-12
I40 27 0 0.2E-12
I45 0 81 1E-3
D43 81 0 DD
V111 81 82 0.7
R293 0 82 1E6
E92 83 0 82 0 -571
R294 0 83 1E6
R295 84 83 1E6
D44 85 84 DD
V112 85 86 27
V113 84 80 26.4
I46 0 87 1E-3
D45 87 0 DD
V114 87 88 0.7
R296 0 88 1E6
E93 86 0 88 0 1
G35 28 0 80 0 10E-12
I47 28 0 0.2E-12
M48 89 90 2 2 NIQS L=3U W=1000
R297 89 5 60E3
E94 90 2 66 0 2
M49 91 73 8 8 NEN L=3U W=300U
M50 76 91 8 8 NEN L=3U W=300U
R298 91 77 1E4
R299 76 77 1E4
C35 77 91 1400E-12
M51 92 93 94 94 NIN L=3U W=220U
M52 95 96 97 97 NIN L=3U W=220U
R300 98 94 2
R301 98 97 2
R302 92 20 2E3
R303 95 20 2E3
C36 92 95 0.2E-12
G36 17 40 99 40 0.2E-3
R304 40 99 1E9
C37 99 40 0.1E-12
E97 100 40 95 92 1
R305 100 99 1E4
V115 101 55 1E-3
R306 27 96 2250
R307 101 93 2250
M53 102 103 104 104 PIN L=6U W=500U
R308 104 56 2E3
V116 20 103 1.9
M54 102 102 8 8 NIN L=3U W=500U
M55 98 102 8 8 NIN L=3U W=500U
E98 20 13 5 15 4.5
E99 12 8 16 2 7.5
R309 0 86 1E9
R310 0 80 1E9
C105 77 76 275E-12
R233 78 20 1E12
R334 102 8 1E12
R335 57 20 1E12
R336 103 20 1E12
R337 2 90 1E12
V117 74 8 2
R338 8 74 1E12
.MODEL DVN D KF=8E-12 IS=1E-16
.MODEL DD D
.MODEL DIN D
.MODEL QLN NPN
.MODEL QLP PNP
.MODEL JNC NJF
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NIQS NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-0.7 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.ENDS
