849104.0101 (PSpice format)
*
.control
set color0 = white   ; белый фон  
set color1 = black
set color2 = brown
set color3 = green
set color4 = gold
set color5 = red
* постоянное напряжение от 0 до 5 с шагом 0.1
DC VS2 0 5 0.1
plot v(3)
.endc
XIOP1       1 2 3 IdOpamp    
R3          0 1 1K   ; узел 1 - неинвертирующий  
R1          4 1 1K
VS1         4 0 0
R2          5 2 1K   ; узел 2 - инвертирующий
VS2         5 0 14
R4          2 3 1K   ; узел 3 - выход
.END

* http://www.ecircuitcenter.com/Circuits/opmodel1/opmodel2.htm
*
* OPAMP MACRO MODEL, SINGLE-POLE 
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT IdOpamp     1   2   6
* INPUT IMPEDANCE
RIN	1	2	10MEG
* DC GAIN (100K) AND POLE 1 (10HZ)
EGAIN	3 0	1 2	100K
RP1	3	4	1K
CP1	4	0	15.915UF
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	5 0	4 0	1
ROUT	5	6	10
.ENDS
